US06573289B1
Production of 1-(6-Ethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
1-(6-Ethoxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (0.60 g) was dissolved in acetic acid (10 ml). To the solution was added 10% palladium carbon (0.2 g), and the mixture was stirred under hydrogen atmosphere at 50° C. for 2 h then at 60° C. for 3 h. The catalyst was filtered off, filtrate was concentrated to dryness. Recrystallization from THF-ethyl acetate gave the titled compound (0.21 g) as a colorless powder.

reactant | 1-(6-Ethoxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 0.60 g | C(C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H36N2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 0.2 g | [C].[Pd]
product | 1-(6-Ethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.21 g | C(C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C19H22N2O2
